US05447657
A mixture of 2.00 g of crude 5-bromo-2-(3,4-difluorophenyl)pyridine (GC purity 81%), 1.12 ml of 3,3-diethoxy-1-propine, 0.138 g of tetrakis(triphenylphosphine)palladium, 0.052 g of copper(I) bromide and 36 ml of triethylamine was heated to boiling for 2 hours. After cooling the reaction mixture was diluted with 100 ml of diethyl ether, washed twice with 40 ml of water each time, dried over sodium sulphate, filtered, the filtrate was boiled briefly with active charcoal, filtered and concentrated. The crude 5-(3,3-diethoxy-1-propynyl)-2-(3,4-difluorophenyl)pyridine, (2.58 g; GC purity 72%), obtained as a brown-black oil, was used directly in the next step.

reactant | 5-bromo-2-(3,4-difluorophenyl)pyridine | 2.00 g | BrC=1C=CC(=NC1)C1=CC(=C(C=C1)F)F | C11H6BrF2N
reactant | 3,3-diethoxy-1-propine | 1.12 ml | C(C)OC(C#C)OCC | C7H12O2
reactant | triethylamine | 36 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium | 0.138 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) bromide | 0.052 g | [Cu]Br
product | 5-(3,3-diethoxy-1-propynyl)-2-(3,4-difluorophenyl)pyridine | 2.58 g | C(C)OC(C#CC=1C=CC(=NC1)C1=CC(=C(C=C1)F)F)OCC | C18H17F2NO2
